US08557805B2
2-Fluoro-4-(methoxymethoxy)-1-nitrobenzene
To a solution of 3-fluoro-4-nitrophenol (120 g) in N,N-dimethylformamide (500 mL) was added sodium hydride (oily, 60%) (22 g) under ice-cooling, and the mixture was stirred for 30 min. To the reaction solution was added chloromethyl methyl ether (64 mL) and the mixture was stirred for 1 hr. Water was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over magnesium sulfate, filtered and concentrated under reduced pressure. The obtained crude product was subjected to basic column chromatography (ethyl acetate) to give the title compound (98 g, yield 64%) as a yellow oil.

reactant | 3-fluoro-4-nitrophenol | 120 g | FC=1C=C(C=CC1[N+](=O)[O-])O | C6H4FNO3
reactant | sodium hydride | 22 g | [H-].[Na+]
reactant | chloromethyl methyl ether | 64 mL | COCCl | C2H5ClO
reactant | Water | O | H2O
solvent | N,N-dimethylformamide | 500 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-Fluoro-4-(methoxymethoxy)-1-nitrobenzene | 98 g, yield 64% | FC1=C(C=CC(=C1)OCOC)[N+](=O)[O-] | C8H8FNO4
